US09126931B2
9-Bromo-3-chloro-8-((R)-2,3-dihydroxy-propoxy)-6,6-dimethyl-5,6-dihydro-benzo[b]carbazol-11-one
3-Chloro-9-bromo-8-((S)-2,2-dimethyl-[1,3]dioxolan-4-yl methoxy)-6,6-dimethyl-5,6-dihydro-benzo[b]carbazol-11-one (Compound S7-1, 56 mg, 0.11 mmol) was dissolved in methanol (5 mL), added with 1 N hydrochloric acid (0.2 ml), and stirred at 50° C. for 2 hr. After cooling, the reaction solution was concentrated under reduced pressure and the resulting residues were added with methanol to obtain a precipitated solid, which was then filtered to obtain the title compound (white powder, 26 mg).

reactant | 3-Chloro-9-bromo-8-((S)-2,2-dimethyl-[1,3]dioxolan-4-yl methoxy)-6,6-dimethyl-5,6-dihydro-benzo[b]carbazol-11-one | 0.11 mmol, 56 mg | ClC1=CC=C2C=3C(C4=C(C(C3NC2=C1)(C)C)C=C(C(=C4)Br)OC[C@@H]4OC(OC4)(C)C)=O | C24H23BrClNO4
reactant | hydrochloric acid | 1 N, 0.2 ml | Cl | ClH
solvent | methanol | 5 mL | CO | CH4O
product | 9-Bromo-3-chloro-8-((R)-2,3-dihydroxy-propoxy)-6,6-dimethyl-5,6-dihydro-benzo[b]carbazol-11-one | 26 mg | BrC1=CC2=C(C(C=3NC4=CC(=CC=C4C3C2=O)Cl)(C)C)C=C1OC[C@@H](CO)O | C21H19BrClNO4
